US07943776B2
N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide
To a stirred solution of N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide (500 mg, 1.61 mmol) in DMF (2.5 mL) was added potassium carbonate (446 mg, 3.22 mmol). The resulting mixture was stirred at room temperature for 15 minutes. 2-Chloromethyl-pyridine hydrochloride (291 mg, 1.78 mmol) was added and the resulting mixture stirred and heated to 50° C. for 18 h. The mixture was cooled to room temperature and saturated aqueous potassium carbonate solution (15 mL) and ethyl acetate (5 mL) were added. The resulting mixture was stirred for 20 minutes. The solid was collected by filtration, washed with saturated aqueous potassium carbonate solution, ethyl acetate and isohexane and dried giving the title compound as a solid (425 mg, 60%); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 2.29 (s, 3H), 2.86 (m, 1H), 5.33 (s, 2H), 7.16 (m, 2H), 7.34 (m, 2H), 7.55 (m, 1H), 7.62 (m, 1H), 7.81 (s, 1H), 7.86 (m, 1H), 7.98 (m, 2H), 8.36 (s, 1H), 8.60 (m, 1H), 10.00 (s, 1H); Mass Spectrum: M+H+ 401.

reactant | N-cyclopropyl-3-[(4-hydroxybenzoyl)amino]-4-methylbenzamide | 1.61 mmol, 500 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)O)=O)=O | C18H18N2O3
reactant | potassium carbonate | 3.22 mmol, 446 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloromethyl-pyridine hydrochloride | 1.78 mmol, 291 mg | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 15 mL | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-methyl-3-{[4-(pyridin-2-ylmethoxy)benzoyl]amino}benzamide | 425 mg, 60% | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O)=O | C24H23N3O3
